US07700637B2
TEA (1.45 g, 14.31 mmol) and DMAP (585 mg, 4.77 mmol) are added to a solution of the title C compound, 2-(4-benzyloxybenzenesulfonyl-amino)-4-chloro-benzoic acid methyl ester (2.06 g, 4.77 mmol) in 30 mL of THF at 0° C., followed by di-t-butyl dicarbonate (1.56 g, 7.16 mmol). The ice bath is then removed, and the reaction is stirred overnight at RT. The mixture is concentrated under vacuum, and the product is taken up in EtOAc, and extracted with 0.5 N aqueous HCl. The organic layer is washed with brine, dried over anhydrous magnesium sulfate, and concentrated under vacuum to give 2-[(4-benzyloxy-benzenesulfonyl)-(t-butoxycarbonyl)-amino]-4-chloro-benzoic acid methyl ester.

reactant | 2-(4-benzyloxybenzenesulfonyl-amino)-4-chloro-benzoic acid methyl ester | 4.77 mmol, 2.06 g | COC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C21H18ClNO5S
reactant | di-t-butyl dicarbonate | 7.16 mmol, 1.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 4.77 mmol, 585 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[(4-benzyloxy-benzenesulfonyl)-(t-butoxycarbonyl)-amino]-4-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Cl)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H26ClNO7S
